US05863947
A stirred mixture of 4-cyano-2-(2-phenylethynyl)benzaldehyde (0.69 g, 3.0 mmol), potassium cyanide (0.39 g, 6.0 mmol) and ammonium carbonate (1.15 g, 12 mmol) in ethanol-water (1:1, 12 ml) was heated to 85° C. for 4 hours following the procedure described in Example 1 (ii). The crude solid obtained after extraction was chromatographed on flash silica eluting with ether to give 5-[4-cyano-2-(2-phenylethynyl)phenyl]hydantoin as a yellow foam.

reactant | 4-cyano-2-(2-phenylethynyl)benzaldehyde | 3.0 mmol, 0.69 g | C(#N)C1=CC(=C(C=O)C=C1)C#CC1=CC=CC=C1 | C16H9NO
reactant | potassium cyanide | 6.0 mmol, 0.39 g | [C-]#N.[K+]
reactant | ammonium carbonate | 12 mmol, 1.15 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol water | 12 ml | C(C)O.O
product | 5-[4-cyano-2-(2-phenylethynyl)phenyl]hydantoin | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)C#CC1=CC=CC=C1 | C18H11N3O2
